US05604229
(1) 2-(4-Dodecanoylphenyl)ethyl Acetate
Aluminum chloride (48.2 g) was added to dichloroethane (400ml) in a stream of nitrogen and the mixture was stirred at room temperature. Then, phenethyl acetate (39.6 g) and undecanoyl chloride (52.7 g) were dropwise added thereto under ice-cooling and the mixture was stirred at room temperature overnight. The reaction mixture was poured into ice water and extracted with diethyl ether. The ether layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled away and the residue obtained was purified by silica gel column chromatography (eluent; ethyl acetate:hexane=1:20) to give the subject compound (34.5 g) as pale yellow crystals.

reactant | Aluminum chloride | 48.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phenethyl acetate | 39.6 g | C(C)(=O)OCCC1=CC=CC=C1 | C10H12O2
reactant | undecanoyl chloride | 52.7 g | C(CCCCCCCCCC)(=O)Cl | C11H21ClO
reactant | dichloroethane | 400ml | ClC(C)Cl | C2H4Cl2
product | 2-(4-Dodecanoylphenyl)ethyl Acetate | 34.5 g | C(C)(=O)OCCC1=CC=C(C=C1)C(CCCCCCCCCCC)=O | C22H34O3
